US07745470B2
(2R,4R)-tert-butyl 4-(allyloxy)-2-((1S,2S)-2-(benzyloxycarbonyl)-1-(tert-butyldimethylsilyloxy)-3-(3,5-difluorophenyl)propyl)pyrrolidine-1-carboxylate
Step A (6): (2S,3S)-2-(3,5-difluorobenzyl)-3-((2R,4R)-4-(allyloxy)-1-(tert-butoxycarbonyl)pyrrolidin-2-yl)-3-(tert-butyldimethylsilyloxy)propanoic acid. The compound of Step A (5), (2R,4R)-tert-butyl 2-((1S,2S)-2-(3,5-difluorobenzyl)-3-((S)-4-benzyl-2-oxooxazolidin-3-yl)-1-hydroxy-3-oxopropyl)-4-(allyloxy)pyrrolidine-1-carboxylate, 6.5 grams, 0.011 mmol) was dissolved in 30 mL of DCM and treated with 5.6 mL (32 mmol) of DIEA, followed by 3.43 g (13.0 mmol) of tert-butyldimethylsilyl triflate. After 30 min, the reaction had gone to completion by tlc analysis eluting with 2:3 ethyl acetate:hexanes and was washed twice with a satd. NaHCO3 solution and once with brine. The organic layer was dried and concentrated in vacuo to an oil. The crude product thus obtained was dissolved in 150 mL of THF and chilled to 0° C. A solution of 30% H2O2 in water (9 mL, 0.088 mmol) was then added, followed by a solution of lithium hydroxide (0.53 g, 0.022 mmol) dissolved in 40 mL of water. The reaction solution was allowed to warm to rt and stirred 16 h. The mixture was then diluted with 100 mL of ether and washed twice with a satd. NaHCO3 solution and once with brine. The organic layer was dried and concentrated to an oil which was purified by silica gel chromatography eluting with 2:3 ethyl acetate:hexanes to provide 3.77 g (62%) of the desired title compound as a white foam. 1H NMR (400 MHz, CDCl3) δ ppm 0.07 (d, J=23.67 Hz, 6H) 0.93 (s, 9H) 1.35 (s, 9H) 2.06 (m, 1H) 2.22 (m, 1H) 2.46 (m, 1H) 2.78 (t, J=12.59 Hz, 1H) 2.94 (m, 1H) 3.08 (m, 1H) 3.82 (m, 1H) 3.97 (m, 4H) 4.53 (d, J=6.80 Hz, 1H) 5.15 (d, J=10.32 Hz, 1H) 5.25 (dd, J=17.25, 1.13 Hz, 1H) 5.86 (m, J=22.54, 10.70, 5.54 Hz, 1H) 6.59 (t, J=9.06 Hz, 1H) 6.64 (m, 1H) 6.69 (d, J=6.55 Hz, 1 H).

reactant | (2S,3S)-2-(3,5-difluorobenzyl)-3-((2R,4R)-4-(allyloxy)-1-(tert-butoxycarbonyl)pyrrolidin-2-yl)-3-(tert-butyldimethylsilyloxy)propanoic acid | FC=1C=C(C[C@H](C(=O)O)[C@H](O[Si](C)(C)C(C)(C)C)[C@@H]2N(C[C@@H](C2)OCC=C)C(=O)OC(C)(C)C)C=C(C1)F | C28H43F2NO6Si
reactant | (2R,4R)-tert-butyl 2-((1S,2S)-2-(3,5-difluorobenzyl)-3-((S)-4-benzyl-2-oxooxazolidin-3-yl)-1-hydroxy-3-oxopropyl)-4-(allyloxy)pyrrolidine-1-carboxylate | FC=1C=C(C[C@@H]([C@H](O)[C@@H]2N(C[C@@H](C2)OCC=C)C(=O)OC(C)(C)C)C(=O)N2C(OC[C@@H]2CC2=CC=CC=C2)=O)C=C(C1)F | C32H38F2N2O7
reactant | DIEA | 32 mmol, 5.6 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | tert-butyldimethylsilyl triflate | 13.0 mmol, 3.43 g | O(S(=O)(=O)C(F)(F)F)[Si](C)(C)C(C)(C)C | C7H15F3O3SSi
reactant | H2O2 | OO | H2O2
reactant | lithium hydroxide | 0.022 mmol, 0.53 g | [OH-].[Li+]
solvent | DCM | 30 mL | C(Cl)Cl | CH2Cl2
solvent | THF | 150 mL | C1CCOC1 | C4H8O
solvent | water | 40 mL | O | H2O
solvent | ether | 100 mL | CCOCC | C4H10O
catalyst | water | 0.088 mmol, 9 mL | O | H2O
product | (2R,4R)-tert-butyl 4-(allyloxy)-2-((1S,2S)-2-(benzyloxycarbonyl)-1-(tert-butyldimethylsilyloxy)-3-(3,5-difluorophenyl)propyl)pyrrolidine-1-carboxylate | 3.77 g, 62% | C(C=C)O[C@@H]1C[C@@H](N(C1)C(=O)OC(C)(C)C)[C@H]([C@H](CC1=CC(=CC(=C1)F)F)C(=O)OCC1=CC=CC=C1)O[Si](C)(C)C(C)(C)C | C35H49F2NO6Si
